US05354477
2-Hydroxy-N,N,N-trimethyl-ethanaminium acetate;
2-Hydroxy-N,N,N-trimethyl-ethanaminium salt with 2-Hydroxy-1,2,3-propane tricarboxylic acid (3:1);

reactant | 2-Hydroxy-N,N,N-trimethyl-ethanaminium | OCC[N+](C)(C)C
reactant | 2-Hydroxy-1,2,3-propane tricarboxylic acid | OC(CC(=O)O)(CC(=O)O)C(=O)O | C6H8O7
product | 2-Hydroxy-N,N,N-trimethyl-ethanaminium acetate | C(C)(=O)[O-].OCC[N+](C)(C)C | InChI=1S/C5H14NO.C2H4O2/c1-6(2,3)4-5-7;1-2(3)4/h7H,4-5H2,1-3H3;1H3,(H,3,4)/q+1;/p-1
